US09120749B2
1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)propan-1-one
To a suspension of 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one (500 mg, 1.67 mmol) in dioxane (10 mL) and DMF (4 mL) was added trans-4-((dimethylamino)methyl)cyclohexanamine diacetic acid salt (583 mg, 2.11 mmol) and Cs2CO3 (3.27 g, 10.0 mmol). The resultant suspension was then heated to 90° C. and stirred for 5.5 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The solution was then washed with saturated sodium bicarbonate, water and then brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by column chromatography (silica, 0-10% methanol/dichloromethane) afforded the desired product (403 mg, 58%) as a tan solid. 1H NMR (300 MHz, CDCl3) δ 10.79 (d, J=8.4 Hz, 1H), 9.00 (s, 1H), 8.27 (d, J=2.0 Hz, 1H), 7.83-7.67 (m, 2H), 4.01-3.88 (m, 1H), 3.08 (q, J=7.2 Hz, 2H), 2.24 (s, 6H), 2.21-2.12 (m, 2H), 1.98 (d, J=13.4 Hz, 2H), 1.61-1.42 (m, 3H), 1.25 (t, J=7.3 Hz, 3H), 1.19-1.00 (m, 2H).

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 1.67 mmol, 500 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
reactant | trans-4-((dimethylamino)methyl)cyclohexanamine diacetic acid salt | 2.11 mmol, 583 mg | C(C)(=O)O.C(C)(=O)O.CN(C)C[C@@H]1CC[C@H](CC1)N
reactant | Cs2CO3 | 10.0 mmol, 3.27 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)propan-1-one | 403 mg, 58% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C21H28BrN3O
